US04021479
4-(4'-Chloro-2'-methyl-4-biphenylyl)-butyric acid
Prepared analogous to Example 1 by reduction of 4-(4'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid. Yield: 76%. Melting point of the cyclohexylamine salt: 145.5°-147° C. (from ethyl acetate).

reactant | 4-(4'-chloro-2'-methyl-4-biphenylyl)-4-oxo-butyric acid | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)C | C17H15ClO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4'-Chloro-2'-methyl-4-biphenylyl)-butyric acid | Yield: 76% | ClC1=CC(=C(C=C1)C1=CC=C(C=C1)CCCC(=O)O)C | C17H17ClO2
